US08669266B2
(iii) 4-{(S)-3-tert-Butoxycarbonyl-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-propionyl}-piperazine-1-carboxylic acid ethyl ester
To a solution of 4 g of 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid and 6.4 g of 4-((S)-2-Amino-3-tert-butoxycarbonyl-propionyl)-piperazine-1-carboxylic acid ethyl ester in 37 ml of DMF, 3.0 g of HOBT and 3.7 g of EDC was added and the reaction mixture was stirred for 2 h at RT. Then, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by crystallization from ethyl acetate/heptane. Yield: 5.4 g.

reactant | 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid | 4 g | OC1=CC(=NC2=CC(=CC=C12)C)C(=O)O | C11H9NO3
reactant | 4-((S)-2-Amino-3-tert-butoxycarbonyl-propionyl)-piperazine-1-carboxylic acid ethyl ester | 6.4 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CC(=O)OC(C)(C)C)N)=O | C15H27N3O5
reactant | HOBT | 3.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 3.7 g
solvent | DMF | 37 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{(S)-3-tert-Butoxycarbonyl-2-[(4-hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-propionyl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)O)C)=O | C26H34N4O7
